.subckt IR2104 Vcc In _SD Com VB HO VS LO
C1 Com In 10p Rpar=1e6
D2 Com In Dd
D1 In Vcc Dd
A1 In Com 0 0 0 2 1 0 SCHMITT Vt=1.9 Vh=1
+ Trise=1110n Tfall=100n Tripdt=50n
A2 VB VS 0 0 0 0 3 0 SCHMITT Vt=8.9 Vh=.35
A3 3 1 0 6 7 5 4 0 AND Trise=100n Tripdt=20n
S1 HO VB 4 0 SH
C2 HO VB 22p
D3 HO VB Dd
S2 HO VS 5 0 SL
C3 HO VS 22p Rpar=100k
D4 VS HO Dd
D5 VS VB 25V
D6 Com VB 625V
C4 Com _SD 10p Rpar=1e6
D8 Com _SD Dd
D7 _SD Vcc Dd
A4 _SD Com 0 0 0 0 6 0 SCHMITT Vt=1.9 Vh=1
+ Trise=120n Tripdt=25n
A5 Vcc Com 0 0 0 0 7 0 SCHMITT Vt=8.9 Vh=.35
A6 7 6 0 2 0 9 8 0 AND Trise=100n Tripdt=20n
S3 LO Vcc 8 0 SH
C5 LO Vcc 22p
D9 LO Vcc Dd
S4 LO Com 9 0 SL
C6 LO Com 22p Rpar=100k
D10 Com LO Dd
D11 Com Vcc 25V
.model Dd D(Ron=.5 Vfwd=.5)
.model 25V D(Ron=.5 Vfwd=.5 Vrev=25.2 Roff=25e4)
.model 625V D(Ron=.5 Vfwd=.5 Vrev=625 Roff=12e6)
.model SH SW(Vt=.5 Vh=-.5 Ron=42 Ilimit=.21)
.model SL SW(Vt=.5 Vh=-.5 Ron=20 Ilimit=.36)
.ends IR2104